US04323688
20.8 g of ethoxyacetic acid are added to 23 g of crude 4-butyl-1,2-phenylene-diamine and the mixture is heated at 130° for 90 minutes. It is allowed to cool and is taken up in ethyl acetate, washed with sodium bicarbonate solution and then three times with water, dried over sodium sulphate and filtered and the filtrate is evaporated to dryness under reduced pressure. The residue is chromatographed on 600 g of silica gel using chloroform as the solvent. After a small initial fraction, 2-ethoxymethyl-5-butyl-benzimidazole is obtained in the main fraction.

reactant | ethoxyacetic acid | 20.8 g | C(C)OCC(=O)O | C4H8O3
reactant | 4-butyl-1,2-phenylene-diamine | 23 g | C(CCC)C1=CC(=C(C=C1)N)N | C10H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-ethoxymethyl-5-butyl-benzimidazole | C(C)OCC=1NC2=C(N1)C=CC(=C2)CCCC | C14H20N2O
